US04341901
4-Methylthio-2-trifluoromethylaniline prepared using an alternate procedure
A solution of 4-thiocyano-2-trifluoromethylaniline (2.1 g., 0.01 mole) in ethanol (25 ml) is added to a stirred solution of sodium sulfide nonahydrate (2.4 g., 0.01 mole) in water (5 ml) and the mixture is warmed (50° C.) for 40 minutes. Methyl iodide (1.55 g., 0.011 mole) is added to the warm reaction all at once, and stirring is continued for two hours. Thin layer chromatography on silica gel with 50 percent hexane-50 percent methylene chloride diluent alongside an authentic sample shows that all of the thiocyano compound is reacted to produce the desired product.

reactant | 4-thiocyano-2-trifluoromethylaniline | 0.01 mole, 2.1 g | S(C#N)C1=CC(=C(N)C=C1)C(F)(F)F | C8H5F3N2S
reactant | sodium sulfide nonahydrate | 0.01 mole, 2.4 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | Methyl iodide | 0.011 mole, 1.55 g | CI | CH3I
reactant | hexane | CCCCCC | C6H14
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 4-Methylthio-2-trifluoromethylaniline | CSC1=CC(=C(N)C=C1)C(F)(F)F | C8H8F3NS
